US05409943
N-(3-(4-Fluorobenzyloxy)-2-pyridyl)-4-methoxyphenylacetamidine hydrochloride
A mixture of 2-amino-3-(4-fluorobenzyloxy)pyridine (4.36 g, 20 mmol) and ethyl 4-methoxyphenylacetimidate hydrochloride (5.04 g, 22 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil, which was purified by flash chromatography (chloroform/methanol) to obtain the product as a hygroscopic gum (1.2 g), m.p. 199°-200° C.

reactant | 2-amino-3-(4-fluorobenzyloxy)pyridine | 20 mmol, 4.36 g | NC1=NC=CC=C1OCC1=CC=C(C=C1)F | C12H11FN2O
reactant | ethyl 4-methoxyphenylacetimidate hydrochloride | 22 mmol, 5.04 g | Cl.COC1=CC=C(C=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(4-Fluorobenzyloxy)-2-pyridyl)-4-methoxyphenylacetamidine hydrochloride | 1.2 g | Cl.FC1=CC=C(COC=2C(=NC=CC2)NC(CC2=CC=C(C=C2)OC)=N)C=C1 | InChI=1S/C21H20FN3O2.ClH/c1-26-18-10-6-15(7-11-18)13-20(23)25-21-19(3-2-12-24-21)27-14-16-4-8-17(22)9-5-16;/h2-12H,13-14H2,1H3,(H2,23,24,25);1H
